US08809479B2
Preparation of 1,4-bis[2-(triethoxy-silanyl)-ethyl]-2-vinyl-cyclohexane, component 3
Into a 5 liter round-bottom flask, equipped with an addition funnel, thermocouple, condenser and a magnetic stir were charged 1,2,4-trivinylcyclohexane (1390 g rams, 8.6 moles) and platinum catalyst (25 ppm of platinum (0)-1,3-divinyl-1,1,3,3-tetramethyldisiloxane complex in xylenes from Aldrich). The mixture was heated to 110° C. and triethoxysilane (1132 grams, 6.9 mole, from Momentive Performance Materials, Inc.) was added drop wise while sparging dry air through the flask. The reaction was exothermic during the addition. The reaction temperature was maintained at approximately 110° C. using a stream of cool air along the side of the flask. After the addition, the reaction was stirred an additional few hours at 110° C. The reaction was monitored using gas chromatography. The products were vacuum distilled at a pressure below 1 torr, to separate out dihydrosilation product, 1,4-bis-[2-(triethoxy-silanyl)-ethyl]-2-vinyl-cyclohexane and its stereoisomers from unreacted trivinylcyclohexane and monohydrosilation product.

reactant | 1,2,4-trivinylcyclohexane | 8.6 moles, 1390 g | C(=C)C1C(CC(CC1)C=C)C=C | C12H18
reactant | triethoxysilane | 6.9 mole, 1132 grams | C(C)O[SiH](OCC)OCC | C6H16O3Si
catalyst | platinum | [Pt] | Pt
product | 1,4-bis[2-(triethoxy-silanyl)-ethyl]-2-vinyl-cyclohexane | C(C)O[Si](CCC1C(CC(CC1)CC[Si](OCC)(OCC)OCC)C=C)(OCC)OCC | C24H50O6Si2
